US08357764B2
1-(3-aminopropyl)imidazole (63 g; 0.5 mole) and toluene diisocyanate (46.1 g; 0.26 mole) were reacted following the procedure of Example A. The 1-(3-aminopropyl)imidazole-toluene diisocyanate adduct was obtained as a solid product.

reactant | 1-(3-aminopropyl)imidazole | 0.5 mole, 63 g | NCCCN1C=NC=C1 | C6H11N3
reactant | toluene diisocyanate | 0.26 mole, 46.1 g | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
product | 1-(3-aminopropyl)imidazole toluene diisocyanate | NCCCN1C=NC=C1.CC=1C(N=C=O)=CC(N=C=O)=CC1 | InChI=1S/C9H6N2O2.C6H11N3/c1-7-2-3-8(10-5-12)4-9(7)11-6-13;7-2-1-4-9-5-3-8-6-9/h2-4H,1H3;3,5-6H,1-2,4,7H2
